US05157026
5-amino-2-propyl-3-(2'-(N-triphenylmethyltetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine was prepared according to the procedure described in Example 7, Part A from 5-amino-2-propylimidazo[4,5-b]pyridine (130 mg, 0.80 mmol), N-triphenylmethyl-5-(4'-bromomethylbiphen-2-yl)tetrazole (445 mg, 0.800 mmol), and NaH (2.4 mmol).

reactant | 5-amino-2-propylimidazo[4,5-b]pyridine | 0.80 mmol, 130 mg | NC1=CC=C2C(=N1)N=C(N2)CCC | C9H12N4
reactant | N-triphenylmethyl-5-(4'-bromomethylbiphen-2-yl)tetrazole | 0.800 mmol, 445 mg | C1(=CC=CC=C1)C(N1N=NN=C1C1=CC=CC=C1C1=CC=C(C=C1)CBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | NaH | 2.4 mmol | [H-].[Na+]
product | 5-amino-2-propyl-3-(2'-(N-triphenylmethyltetrazol-5-yl)biphen-4-yl)methyl-3H-imidazo[4,5-b]pyridine | NC1=CC=C2C(=N1)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H36N8
